US07888366B2
To a cold (ice water) suspension of sodium hydride (206 mg; 5.0 mmol) in anhydrous DMF (4 mL) is added a solution of 1-adamantane methanol (830 mg; 4.9 mmol) in anhydrous DMF (5 mL) over 10 minutes. After allowing to room temperature over 40 minutes, this solution is added to a cold (ice water) stirred solution of 2,6-difluorobenzonitrile (702 mg; 5.0 mmol) in anhydrous DMF (3 mL), and allowed to room temperature over 3 hours. The reaction mixture is poured into ice water with vigorous stirring and extracted with ethyl acetate. The organics are separated and dried over magnesium sulfate. The solvent is removed and the resulting solid is dried under vacuum at 40° C. for 3 hours to give 1.32 grams of 2-(adamantan-1-ylmethoxy)-6-fluorobenzonitrile.

reactant | sodium hydride | 5.0 mmol, 206 mg | [H-].[Na+]
reactant | 1-adamantane methanol | 4.9 mmol, 830 mg | C12(CC3CC(CC(C1)C3)C2)CO | C11H18O
reactant | 2,6-difluorobenzonitrile | 5.0 mmol, 702 mg | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(adamantan-1-ylmethoxy)-6-fluorobenzonitrile | 1.32 grams | C12(CC3CC(CC(C1)C3)C2)COC2=C(C#N)C(=CC=C2)F | C18H20FNO
